US08022099B2
c) [(3RS,4SR)-1-Benzyl-4-(3-chloro-phenyl)-pyrrolidin-3-yl]-methyl-amine
To a solution of (3RS,4SR)-1-benzyl-4-(3-chloro-phenyl)-pyrrolidin-3-ylamine (4.47 g, 16.0 mmol) in THF (50 ml) was added a solution of K2CO3 (4.31 g, 31 mmol) in H2O (35 ml). After 10 minutes, ethyl chloroformate (2.97 ml, 31 mmol) was added and stirring was continued at RT for an additional 4 h. The intermediate carbamate was then extracted with Et2O, dried over Na2SO4 and concentrated under vacuo to give viscous oil. The oil was taken up in THF (10 ml) and a solution of borane in THF (1M) was added (62 ml). The reaction mixture was then heated at 65° C. over night, cooled to RT and carefully quenched with cone. HCl (5 ml). The mixture was then heated at 80° C. for 2 h, cooled to RT, concentrated under vacuo, diluted with Et2O (50 ml) and neutralized with an aqueous solution of NaHCO3. The organic phases were dried over Na2SO4 and the product purified by flash chromatography (SiO2, CH2Cl2/MeOH 9:1) to afford 2.68 g (57%) of the title compound as a colorless oil. ES-MS m/e: 301.2 (M+H+).

reactant | (3RS,4SR)-1-benzyl-4-(3-chloro-phenyl)-pyrrolidin-3-ylamine | 16.0 mmol, 4.47 g | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=CC=C1)Cl)N | C17H19ClN2
reactant | K2CO3 | 31 mmol, 4.31 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl chloroformate | 31 mmol, 2.97 ml | ClC(=O)OCC | C3H5ClO2
reactant | borane | B | BH3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | H2O | 35 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 1M | C1CCOC1 | C4H8O
product | [(3RS,4SR)-1-Benzyl-4-(3-chloro-phenyl)-pyrrolidin-3-yl]-methyl-amine | 2.68 g, 57% | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=CC=C1)Cl)NC | C18H21ClN2
